US07521480B2
4-Chloro-2-[3-(1H-indol-2-yl)-ureido]-5-methyl-benzenesulfonic acid (Compound B1)
Indole-2-carboxylic acid (1.29 g, 8.0 mmol) was suspended in 20 ml dry toluene and diphenyl-phosphoryl azide (2.64 g, 9.6 mmol) added. Triethylamine (0.816 g, 8.0 mmol) was then added drop-wise and the mixture stirred at room temperature for 0.5 hour. The solution was heated to 80° C. and the suspension cleared immediately. Then 2-Amino-4-chloro-5-methyl-benzenesulfonic acid (1.661 g, 8.0 mmol) was added and triethylamine (0.816 g, 8.0 mmol. The mixture was stirred for 3 hours at 80° C. and then the reaction mixture was diluted with 200 ml ethyl acetate and washed with saturated aqueous sodium bicarbonate. The organic phase was then extracted 3 times with distilled water. The title compound was precipitated from the aqueous phase with addition of HCl, filtered and recrystallised from ethyl acetate/heptane to yield 1.6 g (53%) of title compound as light purple crystalline solid (m.p. 284-286° C.; decomposition).

reactant | Indole-2-carboxylic acid | 8.0 mmol, 1.29 g | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | diphenyl-phosphoryl azide | 9.6 mmol, 2.64 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | Triethylamine | 8.0 mmol, 0.816 g | C(C)N(CC)CC | C6H15N
reactant | 2-Amino-4-chloro-5-methyl-benzenesulfonic acid | 8.0 mmol, 1.661 g | NC1=C(C=C(C(=C1)Cl)C)S(=O)(=O)O | C7H8ClNO3S
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 4-Chloro-2-[3-(1H-indol-2-yl)-ureido]-5-methyl-benzenesulfonic acid | 1.6 g, 53% | ClC1=CC(=C(C=C1C)S(=O)(=O)O)NC(=O)NC=1NC2=CC=CC=C2C1 | C16H14ClN3O4S
